US07199154B2
Step 5: methyl (2Z)-4-{[(4-bromobutoxy)carbonyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a solution of 4.2 g of 4-bromobutyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate in 50 mL of dichloromethane, 4.2 g of Dess-Martin reagent was added and the mixture was stirred at rt for 1 hr. Then 0.5 mL of water was added and the mixture was stirred at rt for 0.5 hr. The resulting mixture was filtered and evaporated. The crude thus obtained was dissolved in a solvent mixture of 30 mL of THF with 30 mL of t-BuOH. To this mixture, 5 mL of 2-methyl-2-butene was added followed by the addition of 50 mL of 1 M phosphoric acid and 25 mL of 1 M of NaClO2. The resulting mixture was stirred at rt for 15 min. The organic phase was separated and the aqueous phase was extracted with EtOAc. The organic phase was combined, dried over Na2SO4, filtered, treated with CH2N2, and then evaporated. The crude was purified by flash chromatography over silica gel (5–50% EtOAc/hexane) to afford 3.89 g of the titled compound as a clear oil. The solvent was evaporated and the residue was purified by flash chromatograph over silica gel to afford 4.3 g of the titled compound. 1H NMR (acetone-d6, 500 M Hz): δ 7.80 (d, 2 H), 7.47 (d, 2 H), 7.22–7.15 (m, 3 H), 7.12–7.05 (m, 2 H), 5.30 (s, 2 H), 4.14 (t, 2 H), 3.82 (s, 3 H), 3.53 (t, 2 H), 3.09 (s, 3 H), 1.91–1.86 (m, 2H), 1.81–1.70 (m, 2H).

reactant | 4-bromobutyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate | 4.2 g | C(OCCCCBr)(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C22H25BrO6S
reactant | Dess-Martin reagent | 4.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-methyl-2-butene | 5 mL | CC(C)=CC | C5H10
reactant | phosphoric acid | 1 M, 50 mL | P(O)(O)(O)=O | H3O4P
reactant | NaClO2 | 1 M, 25 mL | [O-]Cl=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 30 mL | CC(C)(C)O | C4H10O
solvent | water | 0.5 mL | O | H2O
product | methyl (2Z)-4-{[(4-bromobutoxy)carbonyl]oxy}-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 3.89 g | BrCCCCOC(=O)OC\C(=C(/C(=O)OC)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C23H25BrO7S
